US09227985B2
Step 5. 7-Bromo-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one
A suspension of 4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one (0.200 g, 0.799 mmol) in acetonitrile (10.0 mL) and acetic acid (2.42 mL) was heated to dissolve residual solids and the resultant solution was cooled to 0° C. The resulting solution was treated with a solution of N-bromosuccinimide (0.144 g, 0.807 mmol) in acetonitrile (3.0 mL), added dropwise, at 0° C. and subsequently stirred at 0° C. for 1 h. The reaction mixture was concentrated to a residue which was dissolved in chloroform (50 mL) and washed with saturated aqueous sodium bicarbonate (40 mL) and brine (20 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated to give a crude solid. Purification by flash column chromatography (100% hexanes to 50% ethyl acetate/hexanes, the ethyl acetate containing 5% methanol) gave the desired product (0.177 g, 67%) as a racemic mixture along with an additional other brominated isomer, 8-bromo-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one (which was not be separated) in a 4.4:1 ratio. LCMS calculated for C16H14BrN2O (M+H)+: m/z=329.0, 331.0. found: 329.0, 331.0.

reactant | 4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one | 0.799 mmol, 0.200 g | C1(=CC=CC=C1)C1N2C3=C(C=CC=C3CC1)NC2=O | C16H14N2O
reactant | N-bromosuccinimide | 0.807 mmol, 0.144 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 10.0 mL | C(C)#N | C2H3N
solvent | acetic acid | 2.42 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 3.0 mL | C(C)#N | C2H3N
product | 7-Bromo-4-phenyl-5,6-dihydro-4H-imidazo[4,5,1-ij]quinolin-2(1H)-one | 0.177 g, 67% | BrC1=C2CCC(N3C2=C(C=C1)NC3=O)C3=CC=CC=C3 | C16H13BrN2O
